US08471005B2
Into an 8-dram vial, N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide (70.0 mg, 0.134 mmol), (R)-2-Methoxymethyl-oxirane (0.0154 g, 0.174 mmol), and Methanol (5.00 mL) were added. The reaction was stirred at room temperature over the weekend. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The selected fractions were concentrated. The residue was partitioned with DCM and sat. NaHCO3. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered wand washed with DCM. The solvent was removed under vacuum to give N-[2-(2-{4-[4-((R)-2-Hydroxy-3-methoxy-propyl)-piperazin-1-ylmethyl]-2-methoxy-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide a yellow solid (32 mg, 39%). LCMS (E/I+) 610.15 (M+H). NMR 1H (DMSO-d6)-8.95 (s, 1H), 7.92-7.98 (m, 1H), 7.88 (d, 1H, J=8.26 Hz), 7.72 (s, 1H), 7.60-7.67 (m, 1H), 7.50-7.78 (m, 2H), 7.00 (d, 1H, J=4.66 Hz), 6.96 (d, 1H, J=4.66 Hz), 6.92 bs, 1H), 6.72 (d, 1H, J=8.26), 4.47 (bs, 1H), 3.82 (s, 3H) 3.71 (bs, 1H), 3.39 (bs, 2H), 3.25-3.31 (m, 2H), 3.24 (s, 3H), 3.17-3.23 (m, 1H) 3.04 (s, 3H), 2.88 (s, 3H), 2.20-2.42 (m, 9H).

reactant | N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 0.134 mmol, 70.0 mg | COC1=C(C=CC(=C1)CN1CCNCC1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C26H31N7O3S
reactant | (R)-2-Methoxymethyl-oxirane | 0.174 mmol, 0.0154 g | COC[C@@H]1OC1 | C4H8O2
solvent | Methanol | 5.00 mL | CO | CH4O
product | N-[2-(2-{4-[4-((R)-2-Hydroxy-3-methoxy-propyl)-piperazin-1-ylmethyl]-2-methoxy-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | O[C@H](CN1CCN(CC1)CC1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)OC)COC | C30H39N7O5S
